US06110962
[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]furan-11-yl)-phenoxy]-acetic acid
Potasium hydroxide (1.0 M, 1.60 mL, 1.60 mmol) was added to a stirred solution of [2, 6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]furan-11-yl)-phenoxy]-acetic acid methyl ester (0.90 g, 1.45 mmol) in THF (9 mL) and methanol (5 mL). After 3 h, the solvent was removed, water was added and the reaction mixture was acidified with 10% HCl. After stirring overnight, the solid was filtered and washed with water, triturated with hexane and dried in vacuo at 100° C. to provide the title compound as a white solid (0.821 g, 94%): mp 250-252° C.: NMR (DMSO-d6); δ8.37 (d, J=8 Hz, 1 H), 7.90 (s, 2 H), 7.84 (d, J=8 Hz, 1 H), 7.70 (ddd, J=8, 6, 1 Hz, 1 H), 7.61 (ddd, J=8, 1, 1 Hz, 1 H)), 7.62-7.58 (m, 2 H), 7.31 (ddd, J=8, 7, 1 Hz, 1 H), 6.92 (ddd, J=8, 1,1 Hz, 1 H), 4.75 (s, 2 H); MS (EI): [M+], 3 bromine isotope pattern, 602 (40%), 604 (95%) 606 (100%) 608 (40%); Anal. Calc. for C24H13Br3O4: C, 47.64, H, 2.17, N, 0.00. Found: C, 47.33, H, 1.95, N, 0.04.

reactant | Potasium hydroxide | 1.60 mmol, 1.0 M, 1.60 mL | [OH-].[K+]
reactant | [2, 6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]furan-11-yl)-phenoxy]-acetic acid methyl ester | 1.45 mmol, 0.90 g | COC(COC1=C(C=C(C=C1Br)C1=C2C=CC=CC2=C(C2=C1C1=C(O2)C=CC=C1)Br)Br)=O | C25H15Br3O4
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | [2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]furan-11-yl)-phenoxy]-acetic acid | 0.821 g, 94% | BrC1=C(OCC(=O)O)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(O2)C=CC=C1)Br)Br | C24H13Br3O4
